US07135480B2
3-Cyano-1-(4-carboxy-benzoyl)-pyrrolo[1,2-a]quinoline
3-Cyano-1-(4-methoxycarbonyl-benzoyl)-pyrrolo[1,2-a]quinoline (10 mg, 0.028 mmol) was disolved in a mixture of 5 mL of THF and 0.5 mL of ethyl alcohol and 1 mL of 2M NaOH was added and the mixture was stirred for 4 h at 50° C. The mixture was cooled to 0° C., acidified using 2N HCl and the resulting precipitate was collected, washed with cold ethyl alcohol and dried under vacuum (9.6 mg, 99%). 1H NMR (DMSO): 8.11–7.99 (m, 5H), 7.80–7.83 (m, 2H), 7.61–7.72 (m, 4H).

reactant | 3-Cyano-1-(4-methoxycarbonyl-benzoyl)-pyrrolo[1,2-a]quinoline | 0.028 mmol, 10 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)C(=O)OC)=O | C22H14N2O3
reactant | NaOH | 2M, 1 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl alcohol | 0.5 mL | C(C)O | C2H6O
product | 3-Cyano-1-(4-carboxy-benzoyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)C(=O)O)=O | C21H12N2O3
